US03993658
When equivalent amounts of 4,5-dimethyl-1,3-diiminoisoindoline and 2-anilino-4-imino-2-thiazoline hydrochloride are substituted for the 1,3-diiminoisoindoline and 2-piperidino-4-imino-2-thiazoline hydrochloride respectively, in the procedure described in Example 9, part B above, there is obtained as the product 1-imino-4,5-dimethyl-3-(2-anilino-4-imino-2-thiazolin-5-ylidene)isoindoline hydrochloride.

reactant | 4,5-dimethyl-1,3-diiminoisoindoline | CC1=C2C(NC(C2=CC=C1C)=N)=N | C10H11N3
reactant | 2-anilino-4-imino-2-thiazoline hydrochloride | Cl.N(C1=CC=CC=C1)C=1SCC(N1)=N
reactant | 1,3-diiminoisoindoline | N=C1NC(C2=CC=CC=C12)=N | C8H7N3
reactant | 2-piperidino-4-imino-2-thiazoline hydrochloride | Cl.N1(CCCCC1)C=1SCC(N1)=N
product | 1-imino-4,5-dimethyl-3-(2-anilino-4-imino-2-thiazolin-5-ylidene)isoindoline hydrochloride | Cl.N=C1NC(C2=C(C(=CC=C12)C)C)=C1C(N=C(S1)NC1=CC=CC=C1)=N | InChI=1S/C19H17N5S.ClH/c1-10-8-9-13-14(11(10)2)15(23-17(13)20)16-18(21)24-19(25-16)22-12-6-4-3-5-7-12;/h3-9H,1-2H3,(H2,20,23)(H2,21,22,24);1H
